US07247734B2
N-Chlorosuccinimide (0.27 g, 2 mmol) was added to a solution of 6-chloro-7-hydroxy-3-(4-methoxy-phenyl)-2-methyl-chromen-4-one (0.29 g, 1 mmol) in DMF (4 ml) and the solution stirred for 3 hrs. and at 50° C. for ˜3 hrs. The resulting solution was poured into water (50 ml) and extracted with ethyl acetate (2×30 ml). The combined extracts were washed with water (5×50 ml) and saturated aqueous sodium chloride solution (30 ml). The solution was dried over anhydrous magnesium sulphate and concentrated to give a dark yellow oil. Trituration with hexane gave 6,8-dichloro-7-hydroxy-2-methyl-3-phenyl-chromen-4-one as a pale orange powder, dried in vacuo, (0.19 g)

reactant | N-Chlorosuccinimide | 2 mmol, 0.27 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 6-chloro-7-hydroxy-3-(4-methoxy-phenyl)-2-methyl-chromen-4-one | 1 mmol, 0.29 g | ClC=1C=C2C(C(=C(OC2=CC1O)C)C1=CC=C(C=C1)OC)=O | C17H13ClO4
reactant | water | 50 ml | O | H2O
reactant | hexane | CCCCCC | C6H14
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 6,8-dichloro-7-hydroxy-2-methyl-3-phenyl-chromen-4-one | ClC=1C=C2C(C(=C(OC2=C(C1O)Cl)C)C1=CC=CC=C1)=O | C16H10Cl2O3
